US09193728B2
Preparation of 4-nitroso-3,4-dihydro-2H-benzo[b][1,4]oxazine
3,4-Dihydro-2H-benzo[1,4]oxazine (425 mg, 3.148 mmol) was dissolved in HCl (3N) at 0° C., and stirred for 5 min. at 0° C. A solution of sodium nitrite (217 mg, 3.148 mmol) in water was added at the same temperature, and the reaction mixture stirred at 0° C. for 1 h. After completion of reaction, water was added and the mixture extracted with DCM. The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure, to give 400 mg desired product.

reactant | 3,4-Dihydro-2H-benzo[1,4]oxazine | 3.148 mmol, 425 mg | O1CCNC2=C1C=CC=C2 | C8H9NO
reactant | sodium nitrite | 3.148 mmol, 217 mg | N(=O)[O-].[Na+]
solvent | HCl | 3N | Cl | ClH
solvent | water | O | H2O
product | 4-nitroso-3,4-dihydro-2H-benzo[b][1,4]oxazine | 400 mg | N(=O)N1C2=C(OCC1)C=CC=C2 | C8H8N2O2
